** Name: SymmetricalOpAmp92

.MACRO SymmetricalOpAmp92 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 out2FirstStage out2FirstStage sourceNmos sourceNmos nmos4 L=4e-6 W=4e-6
mDiodeTransistorPmos2 ibias ibias sourcePmos sourcePmos pmos4 L=6e-6 W=80e-6
mDiodeTransistorPmos3 inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=64e-6
mNormalTransistorNmos4 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=4e-6 W=22e-6
mNormalTransistorNmos5 inStageBiasComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=4e-6 W=16e-6
mNormalTransistorNmos6 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=4e-6 W=16e-6
mNormalTransistorNmos7 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=4e-6 W=22e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=29e-6
mNormalTransistorNmos9 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=29e-6
mNormalTransistorNmos10 SecondStageYinnerTransconductance out1FirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=58e-6
mNormalTransistorNmos11 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=58e-6
mNormalTransistorPmos12 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=4e-6 W=273e-6
mNormalTransistorPmos13 out inStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=64e-6
mNormalTransistorPmos14 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=4e-6 W=273e-6
mNormalTransistorPmos15 out2FirstStage ibias sourcePmos sourcePmos pmos4 L=6e-6 W=203e-6
mNormalTransistorPmos16 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=6e-6 W=438e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp92

** Expected Performance Values: 
** Gain: 53 dB
** Power consumption: 1.05801 mW
** Area: 7434 (mu_m)^2
** Transit frequency: 11.6801 MHz
** Transit frequency with error factor: 11.6802 MHz
** Slew rate: 11.0295 V/mu_s
** Phase margin: 70.4739°
** CMRR: 106 dB
** negPSRR: 46 dB
** posPSRR: 53 dB
** VoutMax: 4.69001 V
** VoutMin: 0.550001 V
** VcmMax: 4.08001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorPmos: -25.6649 muA
** NormalTransistorNmos: 27.6871 muA
** NormalTransistorNmos: 27.6861 muA
** NormalTransistorNmos: 27.6871 muA
** NormalTransistorNmos: 27.6861 muA
** NormalTransistorPmos: -55.3749 muA
** NormalTransistorPmos: -27.6879 muA
** NormalTransistorPmos: -27.6879 muA
** NormalTransistorNmos: 55.2341 muA
** NormalTransistorNmos: 55.2351 muA
** NormalTransistorPmos: -55.2349 muA
** DiodeTransistorPmos: -55.2349 muA
** NormalTransistorNmos: 55.2341 muA
** NormalTransistorNmos: 55.2351 muA
** DiodeTransistorNmos: 25.6641 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.23101  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** inStageBiasComplementarySecondStage: 4.12401  V
** out: 2.5  V
** out1FirstStage: 0.555001  V
** out2FirstStage: 0.957001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 0.307001  V
** innerTransistorStack2Load1: 0.307001  V
** sourceTransconductance: 3.21401  V
** innerTransconductance: 0.150001  V
** inner: 0.150001  V


.END