** Name: SymmetricalOpAmp94

.MACRO SymmetricalOpAmp94 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 out2FirstStage out2FirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos2 ibias ibias sourcePmos sourcePmos pmos4 L=3e-6 W=24e-6
mDiodeTransistorPmos3 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=19e-6
mDiodeTransistorPmos4 innerComplementarySecondStage innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage pmos4 L=1e-6 W=14e-6
mNormalTransistorNmos5 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=1e-6 W=65e-6
mNormalTransistorNmos6 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=1e-6 W=58e-6
mNormalTransistorNmos7 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=1e-6 W=58e-6
mNormalTransistorNmos8 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=1e-6 W=65e-6
mNormalTransistorNmos9 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=66e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=66e-6
mNormalTransistorNmos11 SecondStageYinnerTransconductance out1FirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=72e-6
mNormalTransistorNmos12 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=72e-6
mNormalTransistorPmos13 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=225e-6
mNormalTransistorPmos14 out innerComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=1e-6 W=234e-6
mNormalTransistorPmos15 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=225e-6
mNormalTransistorPmos16 out2FirstStage ibias sourcePmos sourcePmos pmos4 L=3e-6 W=204e-6
mNormalTransistorPmos17 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=3e-6 W=600e-6
mNormalTransistorPmos18 SecondStageYinnerStageBias inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=19e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp94

** Expected Performance Values: 
** Gain: 99 dB
** Power consumption: 3.16901 mW
** Area: 3752 (mu_m)^2
** Transit frequency: 24.6001 MHz
** Transit frequency with error factor: 24.6004 MHz
** Slew rate: 27.2166 V/mu_s
** Phase margin: 84.2249°
** CMRR: 152 dB
** negPSRR: 53 dB
** posPSRR: 72 dB
** VoutMax: 3.62001 V
** VoutMin: 0.320001 V
** VcmMax: 3.99001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorPmos: -85.9239 muA
** NormalTransistorNmos: 126.76 muA
** NormalTransistorNmos: 126.759 muA
** NormalTransistorNmos: 126.76 muA
** NormalTransistorNmos: 126.759 muA
** NormalTransistorPmos: -253.518 muA
** NormalTransistorPmos: -126.759 muA
** NormalTransistorPmos: -126.759 muA
** NormalTransistorNmos: 137.134 muA
** NormalTransistorNmos: 137.135 muA
** NormalTransistorPmos: -137.133 muA
** NormalTransistorPmos: -137.134 muA
** DiodeTransistorPmos: -137.135 muA
** DiodeTransistorPmos: -137.136 muA
** NormalTransistorNmos: 137.136 muA
** NormalTransistorNmos: 137.135 muA
** DiodeTransistorNmos: 85.9231 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.17101  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceStageBiasComplementarySecondStage: 3.79801  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 2.49001  V
** out: 2.5  V
** out1FirstStage: 0.555001  V
** out2FirstStage: 0.722001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 0.165001  V
** innerTransistorStack2Load1: 0.165001  V
** sourceTransconductance: 3.24101  V
** innerStageBias: 3.23501  V
** innerTransconductance: 0.150001  V
** inner: 0.150001  V


.END