** Name: SymmetricalOpAmp95

.MACRO SymmetricalOpAmp95 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 out2FirstStage out2FirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=8e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=6e-6 W=71e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=5e-6 W=53e-6
mDiodeTransistorPmos4 inOutputStageBiasComplementarySecondStage inOutputStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=3e-6 W=16e-6
mNormalTransistorNmos5 inOutputStageBiasComplementarySecondStage outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=6e-6 W=106e-6
mNormalTransistorNmos6 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=2e-6 W=32e-6
mNormalTransistorNmos7 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=2e-6 W=29e-6
mNormalTransistorNmos8 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=2e-6 W=29e-6
mNormalTransistorNmos9 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=2e-6 W=32e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourceNmos sourceNmos nmos4 L=4e-6 W=79e-6
mNormalTransistorNmos11 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=79e-6
mNormalTransistorNmos12 SecondStageYinnerTransconductance out1FirstStage sourceNmos sourceNmos nmos4 L=4e-6 W=78e-6
mNormalTransistorNmos13 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=78e-6
mNormalTransistorPmos14 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=3e-6 W=279e-6
mNormalTransistorPmos15 innerComplementarySecondStage inOutputStageBiasComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner pmos4 L=3e-6 W=277e-6
mNormalTransistorPmos16 out inOutputStageBiasComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=3e-6 W=193e-6
mNormalTransistorPmos17 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=3e-6 W=279e-6
mNormalTransistorPmos18 out2FirstStage ibias sourcePmos sourcePmos pmos4 L=5e-6 W=186e-6
mNormalTransistorPmos19 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=5e-6 W=187e-6
mNormalTransistorPmos20 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=5e-6 W=394e-6
mNormalTransistorPmos21 SecondStageYinnerStageBias innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=3e-6 W=46e-6
mNormalTransistorPmos22 StageBiasComplementarySecondStageYinner innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=3e-6 W=46e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp95

** Expected Performance Values: 
** Gain: 100 dB
** Power consumption: 1.47201 mW
** Area: 10086 (mu_m)^2
** Transit frequency: 7.82201 MHz
** Transit frequency with error factor: 7.8216 MHz
** Slew rate: 7.39327 V/mu_s
** Phase margin: 71.6198°
** CMRR: 154 dB
** negPSRR: 54 dB
** posPSRR: 79 dB
** VoutMax: 4.45001 V
** VoutMin: 0.320001 V
** VcmMax: 4.06001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorNmos: 53.9591 muA
** NormalTransistorPmos: -35.7119 muA
** NormalTransistorPmos: -35.1939 muA
** NormalTransistorNmos: 37.6211 muA
** NormalTransistorNmos: 37.6201 muA
** NormalTransistorNmos: 37.6211 muA
** NormalTransistorNmos: 37.6201 muA
** NormalTransistorPmos: -75.2429 muA
** NormalTransistorPmos: -37.6219 muA
** NormalTransistorPmos: -37.6219 muA
** NormalTransistorNmos: 37.1401 muA
** NormalTransistorNmos: 37.1411 muA
** NormalTransistorPmos: -37.1409 muA
** NormalTransistorPmos: -37.1419 muA
** NormalTransistorPmos: -37.1409 muA
** NormalTransistorPmos: -37.1419 muA
** NormalTransistorNmos: 37.1401 muA
** NormalTransistorNmos: 37.1411 muA
** DiodeTransistorNmos: 35.7111 muA
** DiodeTransistorNmos: 35.1931 muA
** DiodeTransistorPmos: -53.9599 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.20601  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputStageBiasComplementarySecondStage: 3.68601  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 4.06601  V
** out: 2.5  V
** out1FirstStage: 0.555001  V
** out2FirstStage: 0.729001  V
** outVoltageBiasXXnXX0: 0.594001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 0.157001  V
** innerTransistorStack2Load1: 0.157001  V
** sourceTransconductance: 3.21401  V
** innerStageBias: 4.42901  V
** innerTransconductance: 0.150001  V
** inner: 4.40001  V
** inner: 0.150001  V


.END