** Name: SymmetricalOpAmp97

.MACRO SymmetricalOpAmp97 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 out2FirstStage out2FirstStage sourceNmos sourceNmos nmos4 L=7e-6 W=7e-6
mDiodeTransistorPmos2 ibias ibias sourcePmos sourcePmos pmos4 L=3e-6 W=19e-6
mDiodeTransistorPmos3 inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=11e-6
mNormalTransistorNmos4 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=7e-6 W=77e-6
mNormalTransistorNmos5 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=7e-6 W=63e-6
mNormalTransistorNmos6 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=7e-6 W=63e-6
mNormalTransistorNmos7 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=7e-6 W=77e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=26e-6
mNormalTransistorNmos9 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=26e-6
mNormalTransistorNmos10 SecondStageYinnerTransconductance out1FirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=52e-6
mNormalTransistorNmos11 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=52e-6
mNormalTransistorPmos12 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=7e-6 W=50e-6
mNormalTransistorPmos13 innerComplementarySecondStage inStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=11e-6
mNormalTransistorPmos14 out innerComplementarySecondStage inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage pmos4 L=1e-6 W=86e-6
mNormalTransistorPmos15 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=7e-6 W=50e-6
mNormalTransistorPmos16 out2FirstStage ibias sourcePmos sourcePmos pmos4 L=3e-6 W=41e-6
mNormalTransistorPmos17 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=3e-6 W=186e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp97

** Expected Performance Values: 
** Gain: 84 dB
** Power consumption: 1.69701 mW
** Area: 3711 (mu_m)^2
** Transit frequency: 5.05201 MHz
** Transit frequency with error factor: 5.0525 MHz
** Slew rate: 19.7392 V/mu_s
** Phase margin: 81.933°
** CMRR: 137 dB
** negPSRR: 35 dB
** posPSRR: 42 dB
** VoutMax: 3.47001 V
** VoutMin: 0.510001 V
** VcmMax: 3.52001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorPmos: -21.9069 muA
** NormalTransistorNmos: 49.6911 muA
** NormalTransistorNmos: 49.6901 muA
** NormalTransistorNmos: 49.6911 muA
** NormalTransistorNmos: 49.6901 muA
** NormalTransistorPmos: -99.3829 muA
** NormalTransistorPmos: -49.6919 muA
** NormalTransistorPmos: -49.6919 muA
** NormalTransistorNmos: 99.0401 muA
** NormalTransistorNmos: 99.0411 muA
** NormalTransistorPmos: -99.0409 muA
** DiodeTransistorPmos: -99.0419 muA
** NormalTransistorPmos: -99.0429 muA
** NormalTransistorNmos: 99.0421 muA
** NormalTransistorNmos: 99.0411 muA
** DiodeTransistorNmos: 21.9061 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.13801  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** inStageBiasComplementarySecondStage: 3.72301  V
** innerComplementarySecondStage: 2.90401  V
** out: 2.5  V
** out1FirstStage: 0.555001  V
** out2FirstStage: 0.914001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 0.277001  V
** innerTransistorStack2Load1: 0.277001  V
** sourceTransconductance: 3.68501  V
** innerTransconductance: 0.150001  V
** inner: 0.150001  V


.END