** Name: SymmetricalOpAmp98

.MACRO SymmetricalOpAmp98 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 out2FirstStage out2FirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorPmos2 ibias ibias sourcePmos sourcePmos pmos4 L=3e-6 W=20e-6
mDiodeTransistorPmos3 innerComplementarySecondStage innerComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner pmos4 L=1e-6 W=209e-6
mDiodeTransistorPmos4 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=209e-6
mNormalTransistorNmos5 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=2e-6 W=56e-6
mNormalTransistorNmos6 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=2e-6 W=59e-6
mNormalTransistorNmos7 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=2e-6 W=59e-6
mNormalTransistorNmos8 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=2e-6 W=56e-6
mNormalTransistorNmos9 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourceNmos sourceNmos nmos4 L=3e-6 W=90e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=3e-6 W=90e-6
mNormalTransistorNmos11 SecondStageYinnerTransconductance out1FirstStage sourceNmos sourceNmos nmos4 L=3e-6 W=195e-6
mNormalTransistorNmos12 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=3e-6 W=195e-6
mNormalTransistorPmos13 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=8e-6 W=64e-6
mNormalTransistorPmos14 out innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage pmos4 L=1e-6 W=209e-6
mNormalTransistorPmos15 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=8e-6 W=64e-6
mNormalTransistorPmos16 out2FirstStage ibias sourcePmos sourcePmos pmos4 L=3e-6 W=58e-6
mNormalTransistorPmos17 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=3e-6 W=226e-6
mNormalTransistorPmos18 StageBiasComplementarySecondStageYinner inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=209e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp98

** Expected Performance Values: 
** Gain: 87 dB
** Power consumption: 2.06201 mW
** Area: 4952 (mu_m)^2
** Transit frequency: 6.22001 MHz
** Transit frequency with error factor: 6.22048 MHz
** Slew rate: 24.6157 V/mu_s
** Phase margin: 77.9223°
** CMRR: 140 dB
** negPSRR: 39 dB
** posPSRR: 48 dB
** VoutMax: 4.07001 V
** VoutMin: 0.370001 V
** VcmMax: 3.51001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorPmos: -29.5509 muA
** NormalTransistorNmos: 57.5741 muA
** NormalTransistorNmos: 57.5731 muA
** NormalTransistorNmos: 57.5741 muA
** NormalTransistorNmos: 57.5731 muA
** NormalTransistorPmos: -115.148 muA
** NormalTransistorPmos: -57.5749 muA
** NormalTransistorPmos: -57.5749 muA
** NormalTransistorNmos: 123.801 muA
** NormalTransistorNmos: 123.802 muA
** NormalTransistorPmos: -123.8 muA
** DiodeTransistorPmos: -123.801 muA
** DiodeTransistorPmos: -123.8 muA
** NormalTransistorPmos: -123.801 muA
** NormalTransistorNmos: 123.801 muA
** NormalTransistorNmos: 123.802 muA
** DiodeTransistorNmos: 29.5501 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.14501  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceStageBiasComplementarySecondStage: 4.25401  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 3.50801  V
** out: 2.5  V
** out1FirstStage: 0.555001  V
** out2FirstStage: 0.777001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 0.216001  V
** innerTransistorStack2Load1: 0.216001  V
** sourceTransconductance: 3.69601  V
** innerTransconductance: 0.150001  V
** inner: 4.25401  V
** inner: 0.150001  V


.END